US04130652
20 g (0.105 mole) of triethyloxonium-tetrafluoroborate is dissolved in 200 ml of methylene chloride. To the solution is added 18.8 g (0.1 mole) of crystalline 2-(2-imidazolidinylidene)-acetophenone [m.p. 211°-212°, see J. Klosa, Arch.Pharmaz. 286, 397 (1953)]. After the slightly exothermic reaction has subsided, the reaction mixture, a clear yellow solution, is stirred for 16 hours at room temperature; it is subsequently concentrated to dryness in the rotary evaporator; and the crystallising residue is suspended in 300 ml of ethyl acetate. The suspension is cooled to 5°, and the crystals are filtered off with suction to obtain 2-(2-ethoxy-2-phenyl-ethenyl)-2-imidazoline-tetrafluoroborate, m.p. 151°-152°. After drying at 60° in vacuo, the product is further employed without additional purification.

reactant | triethyloxonium tetrafluoroborate | 0.105 mole, 20 g | C(C)[O+](CC)CC.F[B-](F)(F)F
reactant | 2-(2-imidazolidinylidene)-acetophenone | 0.1 mole, 18.8 g | N1C(NCC1)=CC(=O)C1=CC=CC=C1 | C11H12N2O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 2-(2-ethoxy-2-phenyl-ethenyl)-2-imidazoline tetrafluoroborate | C(C)OC(=CC=1NCCN1)C1=CC=CC=C1.F[B-](F)(F)F | InChI=1S/C13H16N2O.BF4/c1-2-16-12(10-13-14-8-9-15-13)11-6-4-3-5-7-11;2-1(3,4)5/h3-7,10H,2,8-9H2,1H3,(H,14,15);/q;-1
